; ================================================================
; fetbias_sw_gate_research.net
; Gate bias subcell for GaAs pHEMT RF switch.
; Generated by fet_bias_preprocessor.py
;
; Topology:
;   VCTRL --[RS]-- GATE
;     |
;    [CP]
;     |
;    GND
;
; Rs and Cp are ADS design variables — same single cell used for
; all FET instances. Override Rs/Cp per instance in parent schematic.
; Default values (series FET, UGW=160.0um):
;   Rs = 1000.0 Ohm
;   Cp = 2272.73 fF
; Shunt FET override values (UGW=100.0um):
;   Rs = 1040.2 Ohm
;   Cp = 2272.73 fF
; ================================================================

.SUBCKT FETBIAS_SW_GATE VCTRL GATE 0

; -- Ports -------------------------------------------------------
PORT:VCTRL  VCTRL
PORT:GATE   GATE

; -- Gate bias network -------------------------------------------
; Rs and Cp reference ADS design variables set on this cell.
; Default values = series FET sizing; override per instance for shunt.
.VAR Rs 1000.0 Ohm
.VAR Cp 2272.73 fF
R:RS   VCTRL   GATE   R=Rs
C:CP   VCTRL   0      C=Cp

.ENDS FETBIAS_SW_GATE
